US07713994B2
4-Iodo-3-methoxymethoxy-benzonitrile
3-hydroxy-4-iodobenzonitrile (500 mg, 2.04 mmol) and MOMCl (350 mg, 4.37 mmol) were dissolved in anhydrous N,N-dimethylformamide (5 mL) and cooled to 0° C. NaH (100 mg, 60% suspension in mineral oil, 2.5 mmol) is then added. The resulting mixture is allowed to stir at room temperature for 1 h before TLC analysis suggested the consumption of the starting iodide. Ether is then added and washed with H2O (3×20 mL) and brine. After drying over Na2SO4, the ether is removed and the residue is purified through chromatography to afford the desired MOM ether (570 mg, 96%). 1H NMR (300 MHz, CDCl3) δ 7.90 (1H, d, J=8.01 Hz), 7.32 (1H, d, J=1.7 Hz), 7.03 (1H, dd, J=8.01 and 1.71 Hz), 5.27 (2H, s), 3.51 (3H, s).

reactant | 3-hydroxy-4-iodobenzonitrile | 2.04 mmol, 500 mg | OC=1C=C(C#N)C=CC1I | C7H4INO
reactant | MOMCl | 4.37 mmol, 350 mg | C(OC)Cl | C2H5ClO
reactant | NaH | 2.5 mmol, 100 mg | [H-].[Na+]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 4-Iodo-3-methoxymethoxy-benzonitrile | IC1=C(C=C(C#N)C=C1)OCOC | C9H8INO2
